US05015652
To 10 g (27 mmole) of 3-t-butyl-5-(2-aminoethylthio)-1H-1,2,4-triazole dihydrobromide in 50 ml of THF was added 0.5 g of 4-dimethylaminopyridine and 6 g (54 mmole) of dimethylcarbamoyl chloride and the mixture was stirred at room temperature for five minutes. Then 10 g of triethylamine was added dropwise and the mixture was refluxed for five minutes then stirred overnight at room temperature. Workup essentially as in Example 1, Step B, followed by crystallization from ether-hexane yielded 1-dimethylcarbamoyl-3-t-butyl-5-(2-(dimethylcarbamoylamino)-ethylthio)-1H-1,2,4-triazole, m.p. 82-83.

reactant | 3-t-butyl-5-(2-aminoethylthio)-1H-1,2,4-triazole dihydrobromide | 27 mmole, 10 g | Br.Br.C(C)(C)(C)C1=NNC(=N1)SCCN
reactant | dimethylcarbamoyl chloride | 54 mmole, 6 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
reactant | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-dimethylcarbamoyl-3-t-butyl-5-(2-(dimethylcarbamoylamino)-ethylthio)-1H-1,2,4-triazole | CN(C(=O)N1N=C(N=C1SCCNC(N(C)C)=O)C(C)(C)C)C | C14H26N6O2S
